Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1](=[C:2]=[C:7]([H:8])[O:9][H:10])([H:5])[H:6].[C:3]#[C:4],4.31515076075
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],1.08149280575
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])[O:9][H:10],3.59141163495
[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2].[O:3]=[C:4][H:5],1.94834320599
[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.81905872787
[C:1].[C:2](=[C:3](\[H:4])[O:5][H:6])\[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.97156318451
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:10]([H:11])[H:12].[H:9],2.01545767824
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3],8.59402483
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.37188838982
[H:1][C:2]([H:3])=[C:4][C@@:5]1([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:12]([C:7][C:8]([H:9])([H:10])[H:11])([H:13])[H:14],0.05024865207
[H:1][C:2]([H:3])([C:4][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])[H:10].[H:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.64705065617
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12],-3.1246584260500003
[C:5][O:6][H:7].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][H:7],-0.93221715824
[H:1][C:5]([H:3])=[C:6][O:11][C:4](=[C:2])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]1[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[O:11]1,-2.85935981226
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.5802702041000005
[C:1][C:2]#[C:3][C:5]([H:6])([O:7][H:8])[O:9][H:10].[H:4]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10],-4.23096286515
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:3],4.27132802903
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3][H:4],3.40561249558
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12].[H:5],1.6258652640600002
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2],5.35272759446
[H:4].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][H:4],-0.335115681087
[C:9](=[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])[H:12])=[C:13]([H:14])[H:15],-2.26141189577
[H:16].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.3059278067400015
[C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1]>>[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.1408763821
[C:13]([H:14])[H:15].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.1795972346
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3](=[C:4])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.94725253845
[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9][O:10]1>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[O:10],-0.991505799529
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],4.39433436775
